US06436965B1
{1-[(4-Fluorophenyl)methyl]-5-(1-hydroxy-isopropyl)-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide (Compound 130)
To a solution of 201 mg of {5-Bromo-1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide in 10 mL of THF at −100° C. was added 0.5 mL of n-BuLi (1.6 M in hexanes) and the mixture was stirred at −100° C. for 30 min. To this cold solution, 190 μL of acetone was added and the reaction mixture was allowed to warm to room temperature. At this time, aqueous NH4Cl was added, the product was extracted with ethyl acetate and the organic phase was washed with brine and dried over anhydrous Na2SO4. Flash chromatography (100% hexane to hexane/ethyl acetate 1:2) and swish with CH2Cl2/hexane yielded 61 mg of the title compound as a yellow solid.

reactant | {5-Bromo-1-[(4-fluorophenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide | 201 mg | BrC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)F)N(C=O)C=1C=NC=CC1)OCC1=CC=CC=C1 | C28H21BrFN3O2
reactant | n-BuLi | 1.6 M, 0.5 mL | [Li]CCCC
reactant | acetone | 190 μL | CC(=O)C | C3H6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {1-[(4-Fluorophenyl)methyl]-5-(1-hydroxy-isopropyl)-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide | 61 mg | FC1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(C)(C)O)OCC1=CC=CC=C1)N(C=O)C=1C=NC=CC1 | C31H28FN3O3
